US05721231
Ethyl (6-amino-4-(4-chlorophenyl)-2,3,9-trimethyl-6H- thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)- carboxylate (11 g) was dissolved in a mixed solution of ethanol (250 ml) and water (80 ml). Barium hydroxide octahydrate (8.4 g) was added and the mixture was stirred at room temperature for 24 hours. The solvent was distilled away under reduced pressure, and water (100 ml) was added. The pH of the mixture was adjusted to 2 with 1N hydrochloric acid and stirred for 20 minutes. The mixture was neutralized with an aqueous solution of sodium hydrogencarbonate and extracted twice with chloroform. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was subjected to silica gel column chromatography. The solvent was distilled away, the resulting residue was crystallized from diisopropyl ether, and the crystals were filtrated to give 7 g of 6-amino-4-(4-chlorophenyl)-2,3,9- trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine, melting point 192°-197° C. with decomposition.

reactant | Ethyl (6-amino-4-(4-chlorophenyl)-2,3,9-trimethyl-6H- thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)- carboxylate | 11 g | NC1(C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C(=C(S3)C)C)C(=NN2)C)C(=O)OCC | C20H20ClN5O2S
reactant | Barium hydroxide octahydrate | 8.4 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | 6-amino-4-(4-chlorophenyl)-2,3,9- trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 7 g | NC1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C(=C(S3)C)C)C(=NN2)C | C17H16ClN5S
